US07595327B2
According to the procedure of Tet. Asymm., 13, 2002, 1555: To a solution of (R)-N-benzyl-N-α-methylbenzylamine (1.37 mL, 2 eq.) in THF (10 mL) at −78° C. was added n-butyllithium (2.4 M, 2.2 mL, 1.6 eq). The reaction was allowed to stir for 30 min at −78° C. and then methyl 1-cyclopentene-1-carboxylate (0.41 mL, 3.25 mmol, 1 eq) was added dropwise. The reaction was stirred for 3 h at −78° C. and then a solution of (1R)-(−)-(10-camphorsulfonyl)oxaziridine (1.49 g, 2 eq) in THF (12 mL) was added dropwise via cannula. The reaction was allowed to stir at room temperature overnight, and was then taken up in ethyl acetate, washed with NaHCO3 (1×), brine (2×), dried over Na2SO4, filtered and concentrated. Purification by silica chromatography eluting with a gradient of 10-15% ethyl acetate/hexanes afforded methyl (1R,2R)-2-{benzyl[(1R)-1-phenylethyl]amino}-1-hydroxycyclopentanecarboxylate as an off white solid (0.77 g, 69%). MS: 354.2 (M+H)+

reactant | (R)-N-benzyl-N-α-methylbenzylamine | 1.37 mL, 2 eq. | C(C1=CC=CC=C1)N[C@@H](C1=CC=CC=C1)C | C15H17N
reactant | n-butyllithium | 2.4 M, 2.2 mL, 1.6 eq | C(CCC)[Li]
reactant | methyl 1-cyclopentene-1-carboxylate | 3.25 mmol, 0.41 mL, 1 eq | C1(=CCCC1)C(=O)OC | C7H10O2
reactant | (1R)-(−)-(10-camphorsulfonyl)oxaziridine | 1.49 g, 2 eq | CC1([C@@H]2CC[C@@]13CS(=O)(=O)N4C3(C2)O4)C | C10H15NO3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1R,2R)-2-{benzyl[(1R)-1-phenylethyl]amino}-1-hydroxycyclopentanecarboxylate | C(C1=CC=CC=C1)N([C@H]1[C@](CCC1)(C(=O)OC)O)[C@H](C)C1=CC=CC=C1 | C22H27NO3
